US06180632B2
To a solution of trans-4-(6,7-dimethoxy-quinoxalin-2-ylamino)-cyclohexanol (303 mg, 1 mmol) in 10 mL of THF at −78° C. are added triphenylphosphine (524 mg, 2 mmol) and diethyl azodicarboxylate (1 mL). The mixture is stirred at −78° C. for one hour before addition of 4-nitrobenzoic acid (334 mg, 25 2 mmol). After being stirred at −78° C. for one hour, the mixture is continued to stir at ROOM TEMPERATURE for additional hour and then concentrated. The residue is chromatographed on silica gel (ether) to give 250 mg (87.7%) of cyclohex-3-enyl-(6,7-dimethoxyquinoxalin-2-yl)-amine.

reactant | trans-4-(6,7-dimethoxy-quinoxalin-2-ylamino)-cyclohexanol | 1 mmol, 303 mg | COC=1C=C2N=CC(=NC2=CC1OC)N[C@@H]1CC[C@H](CC1)O | C16H21N3O3
reactant | triphenylphosphine | 2 mmol, 524 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-nitrobenzoic acid | 2 mmol, 334 mg | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | cyclohex-3-enyl-(6,7-dimethoxyquinoxalin-2-yl)-amine | 250 mg, 87.7% | C1(CC=CCC1)NC1=NC2=CC(=C(C=C2N=C1)OC)OC | C16H19N3O2
